US04147552
Preparation of 3-nicotinoyl-7-methoxy coumarin.
A mixture of 0.65 g ethyl nicotinoylacetate, 0.5 g 2-hydroxyanisaldehyde and 10 ml alcohol was heated on a steam bath until solution was attained. Five drops of piperdine were added and heating was continued. After several minutes the reaction mixture solidified. An additional 10 ml of alcohol were added and the reaction mixture heated another 15 minutes. After cooling, the solid was collected and recrystallized twice from a mixture of alcohol and acetonitrile.

reactant | ethyl nicotinoylacetate | 0.65 g | C(C1=CN=CC=C1)(=O)CC(=O)OCC | C10H11NO3
reactant | 2-hydroxyanisaldehyde | 0.5 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
catalyst | piperdine | Five drops | N1CCCCC1 | C5H11N
product | 3-nicotinoyl-7-methoxy coumarin | C(C1=CN=CC=C1)(=O)C=1C(OC2=CC(=CC=C2C1)OC)=O | C16H11NO4
